US04572912
5-[4-(6-Acetoxy-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one
The procedure described in Example 1(a) was repeated, except that 490 mg of ethyl 3-[4-(6-acetoxy-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate, 100 mg of thiourea and 2 ml of sulfolane were heated at 110°-120° C. for 5 hours. The product was then treated as described in Example 1(a), except that the crude product (in the form of crystals) was washed with ethyl acetate, to give the title compound, softening at 228°-236° C.

reactant | ethyl 3-[4-(6-acetoxy-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 490 mg | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C26H31ClO6
reactant | thiourea | 100 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 2 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-[4-(6-Acetoxy-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)COC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)C | C25H28N2O5S
